US06562849B1
1-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-3-(phenyl)thiourea (exemplification compound number 1-286)
A mixture of 5-[4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (400 mg), phenyl isothiocyanate (113 mg), triethylamine (153 mg) and anhydrous N,N-dimethylformamide (8 ml) was stirred at room temperature for 4 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was recrystallized from a mixture of ethanol and ethyl acetate (5:1) to afford the title compound (347 mg, mp 129.6-130.9° C.).

reactant | 5-[4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | phenyl isothiocyanate | 113 mg | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | triethylamine | 153 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-3-(phenyl)thiourea | 347 mg | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC3=CC=C(C=C3)NC(=S)NC3=CC=CC=C3)C=C1 | C32H27N5O4S2
